US06489318B1
Allyl 4-chlorobutyrate
To a mixture of 4-chlorobutyric acid (48 ml; 0.48 mole), allyl alcohol (200 ml) and hexane (1.2 l) p-toluenesulfonic acid (16.0 g; 0.08 mole) was added. The obtained mixture was heated for 5 hours at reflux temperature in such a way that water was simultaneously removed with Dean-Stark apparatus (Vogel's Textbook of Practical Organic Chemistry, Fourth Ed., Longman, London, 1978, p. 411). The mixture was then cooled to room temperature and shaken with 7% aqueous sodium hydrogencarbonate solution (2×500 ml). The obtained solution was dried with magnesium sulfate and after the filtration of the drying agent hexane was evaporated. The crude residue was distilled under reduced pressure 10 mbar at the temperature of 95° C. and the title compound (61.2 g; 79%) was obtained in the form of a colourless oil.

reactant | 4-chlorobutyric acid | 0.48 mole, 48 ml | ClCCCC(=O)O | C4H7ClO2
reactant | allyl alcohol | 200 ml | C(C=C)O | C3H6O
reactant | hexane | 0.08 mole, 1.2 l, 16.0 g | CCCCCC | C6H14
solvent | water | O | H2O
product | Allyl 4-chlorobutyrate | 61.2 g, 79% | ClCCCC(=O)OCC=C | C7H11ClO2
